US08247576B2
[4-(5-Methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-acetonitrile
The product of Example 37B can also be reacted with benzyl magnesium bromide or phenyl magnesium bromide under the Grignard reaction conditions described in Example 5 to give (following deprotection by the method of Example 37C) 1-benzyl-2-[4-(5-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-ethylamine and 2-[4-(5-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-1-phenyl-ethylamine respectively.

reactant | benzyl magnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1-benzyl-2-[4-(5-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-ethylamine | C(C1=CC=CC=C1)C(CC1=CC=C(C=C1)C=1C(=NNC1C)C(F)(F)F)N | C20H20F3N3
reactant | 2-[4-(5-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-1-phenyl-ethylamine | CC1=C(C(=NN1)C(F)(F)F)C1=CC=C(C=C1)CC(C1=CC=CC=C1)N | C19H18F3N3
product | [4-(5-Methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-phenyl]-acetonitrile | CC1=C(C(=NN1)C(F)(F)F)C1=CC=C(C=C1)CC#N | C13H10F3N3
